US08809336B2
A 4M solution of HCl in dioxane (7.7 ml, 31 mmol) was added dropwise to a solution of 4-tert-butoxycarbonylamino-4-(4-chloro-benzylcarbamoyl)-piperidine-1-carboxylic acid tert-butyl ester (96 mg, 0.20 mmol) in methanol (7.7 mL) and stirred at rt for 17 h. The solvents were concentrated to give 4-amino-piperidine-4-carboxylic acid 4-chloro-benzylamide dihydrochloride (71 mg, 0.20 mmol, 100%) that was used in the next step without further purification.

reactant | HCl | Cl | ClH
reactant | dioxane | 31 mmol, 7.7 ml | O1CCOCC1 | C4H8O2
reactant | 4-tert-butoxycarbonylamino-4-(4-chloro-benzylcarbamoyl)-piperidine-1-carboxylic acid tert-butyl ester | 0.20 mmol, 96 mg | C(C)(C)(C)OC(=O)N1CCC(CC1)(C(NCC1=CC=C(C=C1)Cl)=O)NC(=O)OC(C)(C)C | C23H34ClN3O5
solvent | methanol | 7.7 mL | CO | CH4O
product | 4-amino-piperidine-4-carboxylic acid 4-chloro-benzylamide dihydrochloride | 0.20 mmol, 71 mg, 100% | Cl.Cl.ClC1=CC=C(CNC(=O)C2(CCNCC2)N)C=C1 | InChI=1S/C13H18ClN3O.2ClH/c14-11-3-1-10(2-4-11)9-17-12(18)13(15)5-7-16-8-6-13;;/h1-4,16H,5-9,15H2,(H,17,18);2*1H
